US05362706
2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-8,8a-dihydro-imidazo-[1,5-a]-pyridine-1,3(2H, 5H)-dione (Compound 2.3).
The solution of 1,43 g (0,004 moles) of 1[[(4-chloro-2-fluoro-5-isopropoxyphenyl)amino]carbonyl]-1,2,3,6-tetrahydro-2-pyridinecarboxylic acid in 20 ml of ethanol and 20 ml of 2N HCl is boiled under reflux for 4 hours. Rotevaporation of the reaction solution furnishes the title compound as a faintly yellow syrup, which is homogeneous by TLC (Rf=0,35 on silica gel with ethyl acetate-hexane 1:1) when visualized with a 1% KMnO4 solution.

reactant | 1[[(4-chloro-2-fluoro-5-isopropoxyphenyl)amino]carbonyl]-1,2,3,6-tetrahydro-2-pyridinecarboxylic acid | 0,004 moles, 1,43 g | ClC1=CC(=C(C=C1OC(C)C)NC(=O)N1C(CC=CC1)C(=O)O)F | C16H18ClFN2O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | HCl | 2N, 20 ml | Cl | ClH
product | 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-8,8a-dihydro-imidazo-[1,5-a]-pyridine-1,3(2H, 5H)-dione | ClC1=CC(=C(C=C1OC(C)C)N1C(N2C(CC=CC2)C1=O)=O)F | C16H16ClFN2O3
